US07718693B2
D-pyroglutamic acid ethyl ester (4.17 g, 26.53 mmol) was dissolved in tetrahydrofuran (30 ml) and ethyl iodide (2.23 ml, 27.86 mmol) was added to give a pale yellow solution. This was cooled to 0° C. and sodium hydride (60% in oil, 1.11 g, 27.86 mmol) was added portionwise. After addition of all the sodium hydride the mixture was stirred at 0° C. for a further 20 minutes until most of the bubbling had stopped. The mixture was then warmed to room temperature and stirred overnight under argon. The mixture was then treated with saturated aqueous ammonium chloride solution (˜5 ml). The organic layer was separated and the aqueous layer was extracted with more dichloromethane (3×20 ml). The combined organic layers were dried by passing through a phase separator and then concentrated to a green/brown oil (3.2 g). This was purified by automated flash silica column chromatography (Biotage SP4), eluting with a 0-100% gradient of ethyl acetate in hexane, to give ethyl 1-ethyl-5-oxoprolinate as a yellow oil (1.33 g) which was used in the next step without further purification.

reactant | D-pyroglutamic acid ethyl ester | 26.53 mmol, 4.17 g | C(C)OC([C@@H]1NC(CC1)=O)=O | C7H11NO3
reactant | ethyl iodide | 27.86 mmol, 2.23 ml | C(C)I | C2H5I
reactant | sodium hydride | 27.86 mmol, 1.11 g | [H-].[Na+]
reactant | ammonium chloride | ˜5 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | ethyl 1-ethyl-5-oxoprolinate | 1.33 g | C(C)N1[C@H](C(=O)OCC)CCC1=O | C9H15NO3
